US04521536
3-Methoxycarbonyl-2-nitromethylene-tetrahydro-2H-1,3-thiazine
Methoxycarbonyl chloride (5.7 g) in dichloromethane (60 ml) was added dropwise over a period of 30 minutes to a solution of 2-nitromethylene-tetrahydro-2H-1,3-thiazine (6.4 g) and triethylamine (10.4 ml) in dichloromethane (60 ml) at -20° C. under nitrogen. The reaction mixture was allowed to warm to ambient temperature over a period of 60 minutes and was then washed with 2% hydrochloric acid. The organic phase was dried (MgSO4) and the solvent was removed under reduced pressure. The residue was triturated with ethyl acetate to yield the required product as a crystalline solid m.p. 93°-95° C.

reactant | Methoxycarbonyl chloride | 5.7 g | COC(=O)Cl | C2H3ClO2
reactant | 2-nitromethylene-tetrahydro-2H-1,3-thiazine | 6.4 g | [N+](=O)([O-])C=C1SCCCN1 | C5H8N2O2S
reactant | triethylamine | 10.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-Methoxycarbonyl-2-nitromethylene-tetrahydro-2H-1,3-thiazine | COC(=O)N1C(SCCC1)=C[N+](=O)[O-] | C7H10N2O4S
